US04562279
5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid (2 gm) is heated under reflux in excess of thionyl chloride (20 ml) for 90 minutes. The excess thionyl chloride is removed under vacuum. The residual product is mixed with at least 1.5 mole equivalent CH3SO2NH2, heated slowly in an oil bath to about 110° C. The reaction temperature is slowly raised to about 150° C. and kept at that temperature for at least 30 minutes or till the HCl ceases to evolve. The reaction mixture is cooled and the residue is crystallized from isopropanol to give 5-(2chloro-4-trifluoromethylphenoxy)-2-nitro-N-methansulphonyl benzamide, m.p. 201° C. In a similar way, but using the appropriate sulphonamide in place of methanesulphonamide, the corresponding nitrobenzoic acid sulphonamides are obtained, giving the following melting points 162° C., 179° C., 185° C., 170° C., 101° C., from the reaction with ethyl, propyl, butyl, hexyl and trifluoromethanesulphonamide respectively.

reactant | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid | 2 gm | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | CH3SO2NH2 | at least 1.5 mole | CS(=O)(=O)N | CH5NO2S
reactant | HCl | Cl | ClH
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-(2chloro-4-trifluoromethylphenoxy)-2-nitro-N-methansulphonyl benzamide | ClC1=C(OC=2C=CC(=C(C(=O)NS(=O)(=O)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C15H10ClF3N2O6S
